US07728025B2
(Step 3) Production of N-(4-(1-acetyl-3-methylpyrrolidin-2-yl)-3-fluorophenyl)pyridine-2-carboxamide
0.18 ml of triethylamine and 0.07 ml of methanesulfonyl chloride were added in order to a chloroform (5 ml) solution of 100 mg of N-(4-(1,4-dihydroxy-2-methylbutyl)-3-fluorophenyl)pyridine-2-carboxamide, and the reaction liquid was stirred at room temperature for 30 minutes. Aqueous saturated sodium bicarbonate was added to the reaction liquid, extracted with chloroform, and dried with anhydrous sodium sulfate. The solvent was evaporated away under reduced pressure, and 23 mg of sodium azide was added to a dimethylformamide (4 ml) solution of the resulting residue, and the reaction liquid was stirred at 40° C. for 2 hours. The reaction liquid was cooled to room temperature, water was added to it, extracted with ethyl acetate, and dried with anhydrous sodium sulfate. The solvent was evaporated away under reduced pressure, and 50 mg of sodium borohydride and 5 mg of copper sulfate pentahydrate were added in order to a methanol (5 ml) solution of the resulting residue, and the reaction liquid was stirred at 40° C. for 15 minutes. The reaction liquid was cooled to room temperature, and then aqueous saturated sodium bicarbonate was added to it, extracted with chloroform and dried with anhydrous sodium sulfate. The solvent was evaporated away under reduced pressure, and 0.08 ml of triethylamine, 0.07 ml of acetic anhydride and 5 mg of N,N-4-dimethylaminopyridine were added in order to a chloroform (4 ml) solution of the resulting residue, and the reaction liquid was stirred at room temperature for 30 minutes. Aqueous saturated sodium bicarbonate was added to the reaction liquid, extracted with chloroform, and dried with anhydrous sodium sulfate. The solvent was evaporated away under reduced pressure, and the resulting residue was purified through silica gel column chromatography (developing solvent: chloroform/methanol=100/1) to obtain the entitled compound as a colorless oily substance.

reactant | triethylamine | 0.18 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.07 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | N-(4-(1,4-dihydroxy-2-methylbutyl)-3-fluorophenyl)pyridine-2-carboxamide | 100 mg | OC(C(CCO)C)C1=C(C=C(C=C1)NC(=O)C1=NC=CC=C1)F | C17H19FN2O3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | O | H2O
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
product | N-(4-(1-acetyl-3-methylpyrrolidin-2-yl)-3-fluorophenyl)pyridine-2-carboxamide | C(C)(=O)N1C(C(CC1)C)C1=C(C=C(C=C1)NC(=O)C1=NC=CC=C1)F | C19H20FN3O2
